US06642389B2
In analogy to the procedure described in example 17 a], [rac]-3-(4-hydroxy-naphthalen-1-yl)-2-methoxy-propionic acid methyl ester was reacted with 2-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-ethanol [J. Med. Chem. (1998), 41(25), 5037-5054] in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-2-methoxy-3-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-naphthalen-1-yl)-propionic acid methyl ester, which was further saponified in analogy to the procedure described in example 91 e] to yield [rac]-2-methoxy-3-(4-{2-[2-(4-methoxy-phenyl-5-methyl-oxazol-4-yl]-ethoxy}-naphthalen-1-yl)-propionic acid as colorless solid.

reactant | [rac]-3-(4-hydroxy-naphthalen-1-yl)-2-methoxy-propionic acid methyl ester | COC(C(CC1=CC=C(C2=CC=CC=C12)O)OC)=O | C15H16O4
reactant | 2-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-ethanol | COC1=CC=C(C=C1)C=1OC(=C(N1)CCO)C | C13H15NO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | [rac]-2-methoxy-3-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-naphthalen-1-yl)-propionic acid methyl ester | COC(C(CC1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C1=CC=C(C=C1)OC)OC)=O | C28H29NO6
